US08669234B2
{1-[F-Benzenesulfonyl-4-(4-bromo-phenyl)-1′,2′,4′,5′-tetrahydro-1H-[2,4′]biimidazolyl-3′-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester (63.1 mg, 106.9 mmol) [prepared as described for the synthesis of {1-[1′-Acetyl-4-(4-bromo-phenyl)-1′,2′,4′,5′-tetrahydro-1H-[2,4′]biimidazolyl-3′-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester (Example BY)] substituting the acetic anhydride with phenyl sulfonyl chloride] was combined with [2-Methyl-1-(2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester (53.1 mg, 106.9 mmol) under an argon atmosphere. Potassium carbonate (29.2 mg, 0.212 mmol) and Pd(PPh3)4 (12.2 mg, 0.0106 mmol) were added, followed by DME (2.5 mL) and water (0.8 mL). The mixture was heated under microwave conditions for 20 minutes at 120° C. All volatiles were removed in vacuo and the crude material was dissolved in DMF and purified via RP-HPLC (eluent: water/MeCN w 0.1% TFA) to yield the product {1-[1′-Benzenesulfonyl-5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1′,2′,4′,5′-tetrahydro-1H-[2,4]biimidazolyl-3′-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester (27.9 mg): LCMS-ESI+: calc'd for C45H53N9O8S: 880.2 (M+). Found: 881.5 (M+H+); 1H-NMR: 300 MHz, (MeOH-d4) δ: 8.01 (d, J=7.5 Hz, 2H), 7.90-7.76 (m, 11H), 7.65 (t, J=7.8 Hz, 2H), 5.59 (d, J=8.7 Hz, 1H), 5.25 (dd, 7.5 Hz, 1H), 5.19 (d, J=8.7 Hz, 1H), 4.67 (dd, J=7.5, 7.5 Hz, 1H), 4.32-4.22 (m, 2H), 4.08 (m, 2H), 3.85 (m, 1H), 3.68 (s, 3H), 3.66 (s, 3H), 3.44 (d, J=6.6 Hz, 1H), 2.57 (m, 1H), 2.29-1.99 (m, 5H), 0.99-0.86 (m, 12H).

reactant | {1-[1′-Acetyl-4-(4-bromo-phenyl)-1′,2′,4′,5′-tetrahydro-1H-[2,4′]biimidazolyl-3′-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1CN(CC1C=1NC=C(N1)C1=CC=C(C=C1)Br)C(C)=O)=O | C21H26BrN5O4
reactant | phenyl sulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | [2-Methyl-1-(2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester | 106.9 mmol, 53.1 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC=C(N1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C26H37BN4O5
reactant | Potassium carbonate | 0.212 mmol, 29.2 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(PPh3)4 | 0.0106 mmol, 12.2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 0.8 mL | O | H2O
solvent | DME | 2.5 mL | COCCOC | C4H10O2
product | {1-[1′-Benzenesulfonyl-5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1′,2′,4′,5′-tetrahydro-1H-[2,4]biimidazolyl-3′-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | 27.9 mg | COC(NC(C(C)C)C(=O)N1CN(CC1C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)S(=O)(=O)C1=CC=CC=C1)=O | C45H53N9O8S
